US04070362
e. 7-Butylamino-5-methyl-3-(2-methylpropyl) [1,2,3]triazolo[4,5-b]pyridine-6-carboxylic acid ethyl ester
33 g. of the oil obtained in part d, 5-amino-4-butylamino-6-(2-methylpropyl)amino-2-methylnicotinic acid ethyl ester (about 0.1 mol.), are dissolved in 100 ml. of acetic acid 20 ml. of water. A solution of 0.75 g. of sodium nitrite in 20 ml. of water is added dropwise at about 10° with stirring. Stirring is continued for 10 hours. After this time, the mixture is evaporated. The resulting oil is mixed with 100 ml. of water and extracted three times with 50 ml. portions of ether. The ether phase is dried over sodium sulfate, filtered and evaporated. The residue, 7-butylamino-5-methyl-3-(2-methylpropyl) [1,2,3]triazolo[4,5-b]pyridine-6-carboxylic acid ethyl ester, is recrystallized from benzene, yield 27 g. (81%), m.p. 34°-36°.

reactant | 5-amino-4-butylamino-6-(2-methylpropyl)amino-2-methylnicotinic acid ethyl ester | about 0.1 mol | C(C)OC(C1=C(N=C(C(=C1NCCCC)N)NCC(C)C)C)=O | C17H30N4O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 7-Butylamino-5-methyl-3-(2-methylpropyl) [1,2,3]triazolo[4,5-b]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)N(N=N2)CC(C)C)NCCCC | C17H27N5O2
